US09085570B2
A mixture of lithium 4-(morpholinomethyl)benzenesulfinate (2.0 g, 8.10 mmol, 1.43 equiv), methyl 4-(4-(chloromethyl)-5-methyloxazol-2-yl)benzoate (1.5 g, 5.66 mmol, 1.00 equiv) and potassium carbonate (780 mg, 5.65 mmol, 1.00 equiv) in N,N-dimethylformamide (60 mL) was stirred overnight at 70° C. The reaction mixture was cooled to room temperature and the product was precipitated by the addition of 150 mL of ice and water. The solid was collected by filtration, washed with 2×20 mL of water and dried in a vacuum oven to afford 1.5 g (57%) of methyl 4-(5-methyl-4-((4-(morpholinomethyl)phenylsulfonyl)methyl)oxazol-2-yl)benzoate as a white solid. LC-MS: (ES, m/z): 512 [M+CH3CN+H]+, 471 [M+H]+. 1HNMR (400 MHz, DMSO-d6, ppm) δ 8.04 (d, J=8.0Hz, 2H), 7.90 (d, J=8.0Hz, 2H), 7.72 (d, J=7.6Hz, 2H), 7.52 (d, J=7.6Hz, 2H), 4.67 (s, 2H), 3.88 (s, 3H), 3.55 (s, 6H), 3.31-3.29 (d, 4H), 2.32 (s, 4H), 2.15 (s, 3H).

reactant | lithium 4-(morpholinomethyl)benzenesulfinate | 8.10 mmol, 2.0 g, 1.43 equiv | O1CCN(CC1)CC1=CC=C(C=C1)S(=O)[O-].[Li+]
reactant | methyl 4-(4-(chloromethyl)-5-methyloxazol-2-yl)benzoate | 5.66 mmol, 1.5 g, 1.00 equiv | ClCC=1N=C(OC1C)C1=CC=C(C(=O)OC)C=C1 | C13H12ClNO3
reactant | potassium carbonate | 5.65 mmol, 780 mg, 1.00 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
product | methyl 4-(5-methyl-4-((4-(morpholinomethyl)phenylsulfonyl)methyl)oxazol-2-yl)benzoate | 1.5 g, 57% | CC1=C(N=C(O1)C1=CC=C(C(=O)OC)C=C1)CS(=O)(=O)C1=CC=C(C=C1)CN1CCOCC1 | C24H26N2O6S
